US05693635
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2,6-dichlorobenzamide
A mixture of 335 mg of 2,6-dichlorobenzoyl chloride and 258 mg of N,N-diisopropylethylamine is stirred in 2 ml of xylene while 314 mg of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine is added. The reactants are refluxed in an oil bath at 110° C. for 18 hours. The xylene is evaporated in vacuo to a residue which is partitioned between methylene chloride and water. The organic layer is separated, washed with 1N HCl, 1M NaHCO3, and brine. The organic layer is dried with Na2SO4 and passed through a pad of hydrous magnesium silicate. Hexane is added to the filtrate at the boil to give 370 mg of the desired product as a crystalline solid, m.p. 257°-259° C.

reactant | 2,6-dichlorobenzoyl chloride | 335 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | N,N-diisopropylethylamine | 258 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 314 mg | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
solvent | xylene | 2 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2,6-dichlorobenzamide | 370 mg | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3Cl)Cl)=O | C28H20Cl2N2O2
